US03985754
Preparation of 1-(3-(p-Fluorobenzoylpropyl)-4-(4-methyl-2-thiazolyl)pyridinium chloride
A 1.0 g. portion of γ-chloro-p-fluorobutyrophenone and 0.9 g. of 4-(4-methyl-2-thiazolyl)pyridine are heated in an oil bath at 95°-100° C. overnight. Ether is added and the mixture is filtered. The solid is recrystallized from acetonitrile. This solid is recrystallized from a mixture of alcohol and ether, m.p. 226°-228° C.

reactant | γ-chloro-p-fluorobutyrophenone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | 4-(4-methyl-2-thiazolyl)pyridine | CC=1N=C(SC1)C1=CC=NC=C1 | C9H8N2S
solvent | Ether | CCOCC | C4H10O
product | 3-(p-Fluorobenzoylpropyl)-4-(4-methyl-2-thiazolyl)pyridinium chloride | [Cl-].FC1=CC=C(C(=O)CCCC=2C=[NH+]C=CC2C=2SC=C(N2)C)C=C1 | InChI=1S/C19H17FN2OS.ClH/c1-13-12-24-19(22-13)17-9-10-21-11-15(17)3-2-4-18(23)14-5-7-16(20)8-6-14;/h5-12H,2-4H2,1H3;1H
